US09023846B2
To a solution of 2-chloro-6-methyl-5-nitro-pyrimidin-4-ylamine (920 mg, 4.89 mmol) in 1,4-dioxane (50 mL) was treated with (2-trifluoromethylphenyl)boronic acid (1.3 g, 6.8 mmol), K3PO4 (2.07 g, 9.78 mmol), and (dppf)PdCl2.DCM (318 mg, 0.487 mmol) was heated to 100° C. for 4 h under Ar. The cooled mixture was filtered through a pad of diatomaceous earth, diluted with water, and extracted thrice with EtOAc. The combined organic layers were dried over MgSO4 and concentrated in vacuo. The residue was purified on silica (0:100 v/v to 100:0 v/v EtOAc-hexanes over 20 min) to yield 6-methyl-5-nitro-2-(2-trifluoromethyl-phenyl)-pyrimidin-4-ylamine. 1H-NMR (400 MHz, CDCl3) δ: 7.80 (d, J=7.6 Hz, 1H), 7.71-7.75 (m, 1H), 7.65 (t, J=6.9 Hz, 1H), 7.57-7.62 (m, 1H), 2.84 (s, 3H).

reactant | 2-chloro-6-methyl-5-nitro-pyrimidin-4-ylamine | 4.89 mmol, 920 mg | ClC1=NC(=C(C(=N1)N)[N+](=O)[O-])C | C5H5ClN4O2
reactant | (2-trifluoromethylphenyl)boronic acid | 6.8 mmol, 1.3 g | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | K3PO4 | 9.78 mmol, 2.07 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | DCM | 0.487 mmol, 318 mg | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | (dppf)PdCl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-methyl-5-nitro-2-(2-trifluoromethyl-phenyl)-pyrimidin-4-ylamine | CC1=C(C(=NC(=N1)C1=C(C=CC=C1)C(F)(F)F)N)[N+](=O)[O-] | C12H9F3N4O2
